* C:\Users\marim\Desktop\summer 2024 projects\internship 2024\tasks\week2\4x4_grid.asc
RH00 N01 N00 1K
RH01 N02 N01 1k
RH02 N03 N02 1k
RV00 N10 N00 1k
RV01 N11 N01 1k
RV02 N12 N02 1k
RV03 N13 N03 1k
RV10 N20 N10 1k
RH20 N20 N11 1k
RH21 N11 N22 1k
RH22 N22 N23 1k
RH10 N11 N10 1k
RH11 N12 N11 1K
RH12 N13 N12 1k
RV12 N22 N12 1k
RV13 N23 N13 1k
RV20 N20 N30 1k
RV21 N11 N31 1k
RV22 N22 N32 1k
RV23 N23 0 1k
RH30 N31 N30 1k
RH31 N32 N31 1k
RH32 0 N32 1k
V1 N00 0 10
.tran 1
* A
* B
* C
* D
* E
* F
* G
* H
* I
* J
* K
* L
.backanno
.end
