* C:\Users\marim\Desktop\summer 2024 projects\internship 2024\tasks\week2\4x4_grid.asc
RH12 N13 N12 1k
RH13 N14 N13 1k
RV11 N21 N11 1k
RV12 N22 N12 1k
RV13 N23 N13 1k
RV14 N24 N14 1k
RV21 N31 N21 1k
RH31 N31 N32 1k
RH32 N32 N33 1k
RH33 N33 N34 1k
RH21 N22 N21 1k
RH22 N23 N22 1K
RH23 N24 N23 1k
RV23 N33 N23 1k
RV24 N34 N24 1k
RV31 N31 N41 1k
RV32 N32 N42 1k
RV33 N33 N43 1K
RV34 N34 0 1k
RH41 N42 N41 1k
RH42 N43 N42 1k
RH43 0 N43 1K
V1 N11 0 10
RV22 N32 N22 1k
.tran 1
* A
* B
* C
* D
* E
* F
* G
* H
* I
* J
* K
* L
.backanno
.end
